US07618975B2
(4-hydroxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine
The title compound was prepared from 4-chloro-2-methyl-quinazoline (818 mg, 4.58 mmol), 4-hydroxy-aniline (500 mg, 4.58 mmol) by a procedure similar to example 1b to give 498 mg (43%) of off white solids. 1H NMR (DMSO-d6): 9.51 (s, 1H), 9.34 (s, 1H), 8.44 (d, J=7.8 Hz, 1H), 7.77 (t, J=8.4 Hz, 1H), 7.67-7.48 (m, 4H), 6.79 (d, J=7.8 Hz, 2H), 2.45 (s, 3H).

reactant | 4-chloro-2-methyl-quinazoline | 4.58 mmol, 818 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | 4-hydroxy-aniline | 4.58 mmol, 500 mg | OC1=CC=C(N)C=C1 | C6H7NO
product | (4-hydroxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | OC1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C | C15H13N3O
